US04144349
1,2,4,5,6,7-Hexahydro-10-methoxythiocino[5,4-b]indole 3,3-dioxide
A mixture of 26.54g (0.15 mole) of 1-thiacyclooctane-5-one 1,1-dioxide and 22.0g (0.16 mole) of p-methoxyphenylhydrazine in 150 ml of glacial acetic acid is treated according to the procedure in Example 2. There is obtained 36.7g (88%) of a crystalline solid, m.p. 231°-233° C. Recrystallization from acetone-ethyl acetate gives 30g (72%) of an analytical sample, m.p. 233°-235° C.

reactant | 1-thiacyclooctane-5-one 1,1-dioxide | 0.15 mole, 26.54g | S1(CCCC(CCC1)=O)(=O)=O | C7H12O3S
reactant | p-methoxyphenylhydrazine | 0.16 mole, 22.0g | COC1=CC=C(C=C1)NN | C7H10N2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1,2,4,5,6,7-Hexahydro-10-methoxythiocino[5,4-b]indole 3,3-dioxide | 36.7g, 88% | COC1=CC=2C3=C(NC2C=C1)CCCS(CC3)(=O)=O | C14H17NO3S
